US07714126B2
With a procedure similar to example 1 above, 5-phenyl-2-trifluoromethyl-furan-3-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide was prepared from 5-phenyl-2-trifluoromethyl-furan-3-carboxylic acid and methyl-(6-morpholin-4-yl-pyridin-3-yl)-amine. LCMS calcd for C21H18F3N3O3 (m/e) 417, obsd 418 (M+H).

reactant | 5-phenyl-2-trifluoromethyl-furan-3-carboxylic acid | C1(=CC=CC=C1)C1=CC(=C(O1)C(F)(F)F)C(=O)O | C12H7F3O3
reactant | methyl-(6-morpholin-4-yl-pyridin-3-yl)-amine | CNC=1C=NC(=CC1)N1CCOCC1 | C10H15N3O
product | 5-phenyl-2-trifluoromethyl-furan-3-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide | N1(CCOCC1)C1=CC=C(C=N1)NC(=O)C1=C(OC(=C1)C1=CC=CC=C1)C(F)(F)F | C21H18F3N3O3
